US05932642
A mixture consisting of 21.9 g (0.106 mol) of 2,4-di-tert-butylphenol, 5.3 g (0.053 mol) of tetrahydro-4H-pyran-4-one and 5 ml of acetic acid is melted melted together and is then saturated, with stirring, with hydrochloric acid gas at 40-45° C. After standing for 60 hours at room temperature, the reaction mixture is diluted with toluene and washed with water, sodium chloride solution and sodium hydrogencarbonate solution. The organic phase is dried over magnesium sulfate and concentrated on a rotary evaporator. The residue is crystallised from methanol, giving 7.2 g (47%) of 2,4-di-tert-butyl-6-(3,6-dihydro-2H-pyran-4-yl)phenol, m.p. 135-139° C. (compound (103), Table 1).

reactant | 2,4-di-tert-butylphenol | 0.106 mol, 21.9 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | tetrahydro-4H-pyran-4-one | 0.053 mol, 5.3 g | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-di-tert-butyl-6-(3,6-dihydro-2H-pyran-4-yl)phenol | 7.2 g, 47% | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=1CCOCC1)O | C19H28O2
